US08729264B2
Ethyl 5-[(2,2-dimethyl-4,6-dioxo-1,3-dioxane-5-ylidene)methylamino]-1H-pyrazole-4-carboxylate
Meldrum's acid (15.3 g, 106 mmol) was dissolved in toluene (450 mL), triethyl orthoformate (17.6 mL, 106 mmol) was added, and the mixture was heated under reflux for 2 hr. The reaction mixture was allowed to cool to room temperature, ethyl 3-amino-4-pyrazolecarboxylate (15 g, 96.7 mmol) was added, and the mixture was heated under reflux for 3 hr. The reaction mixture was allowed to cool to room temperature, and stirred at room temperature for 10 hr. The precipitated crystals were collected by filtration, washed with diisopropylether (100 mL), and dried under reduced pressure at 40° C. overnight to give the title compound (26.3 g, 88%).

reactant | Meldrum's acid | 106 mmol, 15.3 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | triethyl orthoformate | 106 mmol, 17.6 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | ethyl 3-amino-4-pyrazolecarboxylate | 96.7 mmol, 15 g | NC1=NNC=C1C(=O)OCC | C6H9N3O2
solvent | toluene | 450 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-[(2,2-dimethyl-4,6-dioxo-1,3-dioxane-5-ylidene)methylamino]-1H-pyrazole-4-carboxylate | 26.3 g, 88% | CC1(OC(C(C(O1)=O)=CNC1=C(C=NN1)C(=O)OCC)=O)C | C13H15N3O6
